US06277995B1
N-phenylpropionamide(149.2 g, 1.0 mol) and pyridine(261.0 g, 3.3 mol) were dissolved in dichloromethane(300 g), and the mixture was cooled to 0° C. Phosphorus oxychloride(168.7 g, 1.1 mol) was added dropwise thereto for 2 hours, and then the mixture was stirred at room temperature (20° C.) for 2 hours to produce N-phenylpropionimidoylchloride.

reactant | N-phenylpropionamide | 1.0 mol, 149.2 g | C1(=CC=CC=C1)NC(CC)=O | C9H11NO
reactant | pyridine | 3.3 mol, 261.0 g | N1=CC=CC=C1 | C5H5N
reactant | Phosphorus oxychloride | 1.1 mol, 168.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 300 g | ClCCl | CH2Cl2
product | N-phenylpropionimidoylchloride | C1(=CC=CC=C1)N=C(CC)Cl | C9H10ClN
